Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male who presents with abdominal pain. 

___ notable for severe familial hypertriglyceridemia (requiring
plasmapheresis for pancreatitis in the past) w/ pancreatic
pseudocyst. He underwent advenced endoscopy with axial stent
placement between stomach and cyst on ___ this was c/b brisk
UGIB during the procedure -> ICU admission -> HMED, discharged
home ___. 

On ___, he underwent stent removal via repeat advanced
endoscopy. He was feeling well until about 10 days ago, when he
developed central epigastric burning and stabbing abdominal
discomfort that he states was consistent with both prior 
episodes
of pancreatitis (has had about 10 in his life) and with the
pseudocyst. This pain waxed and waned, but overall was getting
worse; it became associated with nausea and nonbloody, 
nonbilious
emesis (single episode yesterday, 7 episodes today). No changes
in stools. Has felt hot and cold but not measured a temperature.
No chest pain or shortness of breath. States he has lost about 
70
pounds over the last ___ months, unclear cause of this but does
not take any Creon presently.

Discussed pt with Dr. ___ pt in) - agrees with CT
scan to evaluate for multiple potential pathologies, including
AOC pancreatitis (normal lipase), worsening of known splanchnic
thrombosis, reaccumulation of pseudocyst

 
Past Medical History:
-Presumed familial hypertriglyceridemia (followed by Dr. ___ at card___)
-Recurrent acute pancreatitis due to hypertriglyceridemia and
alcohol (followed by Dr. ___ at ___)
-Splenic vein thrombosis
-Pancreatic pseudocyst
-DM (possibly from pancreatic insufficiency)
 
Social History:
___
Family History:
HTN, cholelithasis in aunt, no one else with ___
related pancreatitis 
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.2  110/ 66 62 18 98 RA  
Fingerstick 90
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive slightly dry mucous membranes, good dentition.
Oropharynx is clear.  
NECK: No cervical lymphadenopathy.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds BACK: No spinous process tenderness
ABDOMEN: soft bowel sounds, non-tender to deep palpation in all
four quadrants
EXTREMITIES: No clubbing, cyanosis, or edema
NEUROLOGIC: ___ strength throughout. Normal sensation

DISCHARGE PHYSICAL:
VS: 98.3 100/63 67 18 98 Ra 
General: NAD, laying back in bed
HEENT: NC/AT, EOMI, no JVD, neck supple, no LAD
CARDIAC: RRR, s1+s2 normal, no m/g/r appreciated
LUNGS: CTAB
ABDOMEN: +BS, non-tender to deep palpation, non-distended
EXTREMITIES: No clubbing, cyanosis, or edema
NEUROLOGIC: No motor/sensory deficits elicited
 
Pertinent Results:
ADMISSION LABS:
___ 07:56PM   LACTATE-1.0 K+-3.7
___ 07:48PM   GLUCOSE-118* UREA N-16 CREAT-0.7 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-25 ANION GAP-14
___ 07:48PM   LIPASE-17
___ 07:48PM   TRIGLYCER-100
___ 05:20PM URINE  HOURS-RANDOM
___ 05:20PM URINE  UHOLD-HOLD
___ 05:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-TR* KETONE-40* BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 05:20PM URINE  RBC-1 WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 05:20PM URINE  MUCOUS-MANY*
___ 02:07PM   K+-5.5*
___ 12:40PM   GLUCOSE-172* UREA N-21* CREAT-0.9 SODIUM-135 
POTASSIUM-8.0* CHLORIDE-96 TOTAL CO2-22 ANION GAP-17
___ 12:40PM   estGFR-Using this
___ 12:40PM   ALT(SGPT)-20 AST(SGOT)-57* ALK PHOS-52 TOT 
BILI-0.8
___ 12:40PM   LIPASE-23
___ 12:40PM   cTropnT-<0.01
___ 12:40PM   ALBUMIN-4.2
___ 12:40PM   WBC-12.5*# RBC-4.97# HGB-14.5 HCT-43.1# 
MCV-87 MCH-29.2 MCHC-33.6 RDW-12.5 RDWSD-39.0
___ 12:40PM   NEUTS-87.4* LYMPHS-7.7* MONOS-4.1* EOS-0.3* 
BASOS-0.2 IM ___ AbsNeut-10.94*# AbsLymp-0.97* AbsMono-0.52 
AbsEos-0.04 AbsBaso-0.03
___ 12:40PM   PLT COUNT-171#

DISCHARGE LABS:
___ 04:35AM BLOOD WBC-6.3 RBC-3.84* Hgb-11.3* Hct-33.6* 
MCV-88 MCH-29.4 MCHC-33.6 RDW-12.0 RDWSD-38.6 Plt ___
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD Glucose-92 UreaN-11 Creat-0.8 Na-140 
K-3.5 Cl-102 HCO3-28 AnGap-10
___ 04:35AM BLOOD Calcium-8.9 Phos-3.2 Mg-1.9

IMAGING:
___ CT a/p:
1. There has been interval removal of the pancreatic 
cystogastrostomy tube. 
There is slight re-accumulation of the known peripancreatic 
collection 
posterior to the antrum of the stomach.  An additional small 
peripancreatic 
collection abutting the greater curvature of the stomach may 
represent the 
previously seen collection which was more air-filled. 
2. The pancreas is of atrophic with minimal peripancreatic 
stranding, improved 
since the prior study.  No convincing evidence of acute 
pancreatitis by CT. 
3. Splenomegaly with linear hypodensities compatible with 
multiple thrombosed 
vessels versus chronic infarct. 

MICRO:
___ 5:20 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
 
Brief Hospital Course:
___ hx familial hyperTG c/b pancreatitis/pseudocyst and recent
advanced endoscopic procedures, known chronic splenic vein
thrombosis, who presents with abdominal pain admitted for
pancreatitis and inability to take PO.

ACUTE ISSUES:

#Abdominal pain:
Recent axial stent placement to drain pancreatic pseudocyst 
complicated by acute arterial UGIB s/p ___ embolization, Last EGD 
on ___, with stent removal. Pain
currently per patient consistent with both prior episodes of 
pancreatitis and with the pseudocyst. TriGly 100, lipase 
negative at 23 (repeat at 17). CT with some reaccumulation of 
fluid s/p stent removal, LFTs wnl. Etiology in the setting of a 
negative lipase with such CT findings either chronic 
pancreatitis or more likely pseudocyst re-accumulation with 
structural compression. ERCP team was consulted who reiewd the 
case and determined ineligibility for intervention given 
psuodocyst size not suffiecient for benefit to surpass risks 
given his prior bleeding complications. He was monitored for VS 
instability to fever spikes. He remained covered with 
ciprofloxacin and metronidazole antibiotic therapy, which will 
be extended to 2 weeks. He was advanced from clears to a regular 
diet. His pain and nausea were successfully managed with IV 
Dilaudid and Zofran PRN and did not require any pain medication 
on the day of discharge while tolerating a diet. 

CHRONIC ISSUES:
# Hx of acute blood loss anemia
# Upper GI bleed: Presumed gastric artery source, s/p L gastric 
artery embolization by ___. Large dilution effect on all cell 
lines demonstrated ___ following large IVF quantity. Remained 
stable for remainder of hospitalization. 
# Familial hypertriglyceridemia: Continued home Fenofibrate
# NIDDM (possibly from pancreatic insufficiency): Held home
Metformin,
monitored sugars, ISS PRN if not NPO
#Chronic Pain: Held Gabapentin 400 mg currently 

TRANSITIONAL ISSUES:
-Follow-up appointment: PCP, GI
-___ medication: antibiotic therapy course (cipro/flagyl) for 2 
weeks
-Pancreatitic pseudocyst: He will need follow-up in clinic and 
consideration for repeat CT scan for possible 
drainage/reaccumulation.
-Labs: Hgb 11.3, Cr 0.8 upon discharge. Please recheck cbc to 
monitor anemia at his next follow-up appointment.
-Code status: Full code (presumed)
-Contact: ___ (sister) ___

Greater than 30 minutes spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fenofibrate 145 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Gabapentin 400 mg PO QHS 
4. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*26 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*39 Tablet Refills:*0 
3.  Fenofibrate 145 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Gabapentin 400 mg PO QHS  
6.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Pancreatic pseudocyst
Chronic pancreatitis
Severe malnutrition

SECONDARY:
Familial hypertriglyceridemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
  - You were hospitalized because you presented with abdominal 
pain which may have been concerning for many different causes 
given your history of pancreatitis flares in addition to 
pseudocyst formation and gastrointestinal bleed.

What was done while I was in the hospital?
  - Pictures were taken that showed that you had a small 
increase in the size of your pancreas pseudocyst in the time 
interval since your drainage and last scan.
  - These pictures also did not show strong evidence to suggest 
that you were having an acute pancreatitis attack, which was 
also reflected by some of your lab markers, although these may 
be diminished in chronic pancreatitis states.
  - Your case was reviewed by the ___ pancreas team here who 
determined that your new pseudocyst size was incompatible with 
physical intervention and manipulation, especially since the 
risks may outweigh the benefit given you had a previous bleeding 
complication.
  - You were started on medications to help control your 
abdominal pains and the subsequent nausea which followed.

What should I do when I go home?
  - It is very important that you take your medications as 
prescribed.
  - Please go to your scheduled appointment with your primary 
doctor.
  - If you have any signs of bleeding through vomiting or bowel 
movement or sudden worsening abdominal pains, please tell your 
primary doctor or go to the emergency room.

Best wishes, 
  Your ___ team
 
Followup Instructions:
___